US08049015B2
Diethyl malonate and malonamamidine hydrochloride were combined in EtOH (50 mL) with stirring. Sodium ethoxide was added dropwise via addition funnel over 10 minutes. The reaction was stirred overnight at room temperature to give 2-(4,6-dihydroxy-pyrimidin-2-yl)-acetamide.

reactant | Diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | malonamamidine hydrochloride | C(C(=N)N)C(=O)N.Cl
reactant | Sodium ethoxide | [O-]CC.[Na+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | 2-(4,6-dihydroxy-pyrimidin-2-yl)-acetamide | OC1=NC(=NC(=C1)O)CC(=O)N | C6H7N3O3
